US06936608B2
c) 7-[3-([1,2,4]Triazol-1-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
This reaction was carried out as described in Example 37, step e, using 1-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-1H-[1,2,4]triazole (192 mg, 0.75 mmol), 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.1 g, 0.375 mmol), 2 M Na2CO3 (0.75 ml) and tetrakis(triphenylphosphine)palladium(0) (0.022 g) in 1,2-dimethoxyethane (2 ml). The crude residue was purified by flash chromatography (silica gel, 5% MeOH/CH2Cl2) and triturated with Et2O to yield the title compound (68 mg, 55%): 1H NMR (360 MHz, CDCl3) δ 7.72 (1H, t, J 7.8 Hz), 7.76-7.80 (1H, m), 8.09-8.13 (1H, dt, J 7.8, 1.3 Hz), 8.17 (1H, s), 8.57 (1H, t, J 1.9 Hz), 8.67 (1H, s), 8.71 (1H, s), 8.87 (1H, s); MS (ES+) m/z 332 [M+H]+.

reactant | 1-[3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-1H-[1,2,4]triazole | 0.75 mmol, 192 mg | CC1(COB(OC1)C=1C=C(C=CC1)N1N=CN=C1)C | C13H16BN3O2
reactant | 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.375 mmol, 0.1 g | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | Na2CO3 | 2 M, 0.75 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.022 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[3-([1,2,4]Triazol-1-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 68 mg, 55% | N1(N=CN=C1)C=1C=C(C=CC1)C1=CN=C2N1N=CC(=N2)C(F)(F)F | C14H8F3N7
